US06528504B2
60% Sodium hydride (39 mg, 0.99 mmol) was washed with hexane under argon atmosphere, and then suspended in dimethyl sulfoxide (6 ml). The obtained suspension was stirred at room temperature for 30 minutes. 5,11-Dihydrodibenzo[b,e][1,4]oxazepine (178 mg, 0.90 mmol) was added to the suspension, and they were stirred at room temperature for 20 minutes and then at 50° C. for 30 minutes. A solution of (R)-3-chloro-1-[3-(4-methoxyphenyl)propyl]homopiperidine (278 mg, 0.99 mmol) in dimethyl sulfoxide (3 ml) was added dropwise into the obtained solution, and they were stirred at 50° C. for 3 hours. The reaction liquid was distributed in saturated aqueous sodium hydrogencarbonate solution and ethyl acetate. The organic layer was dried, and the solvent was evaporated under reduce pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (10:1) and then with hexane and ethyl acetate (3:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl) propyl]piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (196 mg, 49%).

reactant | Sodium hydride | 0.99 mmol, 39 mg | [H-].[Na+]
reactant | 5,11-Dihydrodibenzo[b,e][1,4]oxazepine | 0.90 mmol, 178 mg | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (R)-3-chloro-1-[3-(4-methoxyphenyl)propyl]homopiperidine | 0.99 mmol, 278 mg | Cl[C@H]1CN(CCCC1)CCCC1=CC=C(C=C1)OC | C16H24ClNO
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl) propyl]piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | COC1=CC=C(C=C1)CCCN1[C@H](CCCC1)CN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C29H34N2O2
